US06583162B1
(E)-3-(2-Amino-5-chloro-3-pyridinyl)-N-benzyl-2propenamide
The title compound was prepared from (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoic acid and benzylamine as a yellow solid:

reactant | (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoic acid | NC1=NC=C(C=C1/C=C/C(=O)O)Cl | C8H7ClN2O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (E)-3-(2-Amino-5-chloro-3-pyridinyl)-N-benzyl-2propenamide | NC1=NC=C(C=C1/C=C/C(=O)NCC1=CC=CC=C1)Cl | C15H14ClN3O
